US04632982
To a 50% suspension of 1.5 g sodium hydride in 100 ml tetrahydrofuran, 3 g ethyl-(2-hydroxypropyl)amine are added; this is stirred at room temperature for 30 minutes, thereafter 4.5 g of 3-chloro-6-triphenylmethylazopyridazine are added. Stirring is maintained for 5 minutes, the organic phase is washed with a saturated solution of sodium chloride, rendered anhydrous and evaporated to dryness under a vacuum. The residue is taken up with ethyl alcohol, diluted with water, and the precipitate is collected under a vacuum which is then triturated with diisopropyl ether to yield 4 g of 3-[ethyl-(2-hydroxypropyl)amino]-6-triphenylmethylazopyridazine melting at 137° C. (with decomposition). A solution of 3 g of 3-[ethyl-(2-hydroxypropyl)amino]-6-triphenylmethylazopyridazine in 300 ml ethyl alcohol and 50 ml tetrahydrofuran containing 300 mg 5% palladium on carbon is hydrogenated at room temperature and pressure. The catalyst is filtered out, then the residue is evaporated and triturated with diethyl ether to yield 2.5 g of 3-[ethyl-(2-hydroxypropyl)amino]-6-(2-triphenylmethylhydrazino)pyridazine melting at 122° C. (with decomposition). A solution of 2 g of 3-[ethyl-(2-hydroxypropyl)amino]-6-(2-triphenylmethylhydrazino)pyridazine in 100 ml absolute ethyl alcohol is mixed with 2.5 ml concentrated hydrochloric acid and stirred for 15 minutes at room temperature. This is evaporated under a vacuum and the residue taken up with isopropyl alcohol. This is diluted with diisopropyl ether to yield 1.2 g of 3-[ethyl-(2-hydroxypropyl)amino]-6-hydrazinopyridazine dihydrochloride melting at 208°-212° C. (with decomposition).

reactant | 3-[ethyl-(2-hydroxypropyl)amino]-6-(2-triphenylmethylhydrazino)pyridazine | 2 g | C(C)N(C=1N=NC(=CC1)NNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(C)O | C28H31N5O
reactant | hydrochloric acid | 2.5 ml | Cl | ClH
solvent | ethyl alcohol | 100 ml | C(C)O | C2H6O
product | 3-[ethyl-(2-hydroxypropyl)amino]-6-hydrazinopyridazine dihydrochloride | 1.2 g | Cl.Cl.C(C)N(C=1N=NC(=CC1)NN)CC(C)O | InChI=1S/C9H17N5O.2ClH/c1-3-14(6-7(2)15)9-5-4-8(11-10)12-13-9;;/h4-5,7,15H,3,6,10H2,1-2H3,(H,11,12);2*1H
